US08404676B2
Intermediate 27: 2-methoxy-2′-methylbiphenyl-4-carboxylic acid
A suspension of methyl 4-bromo-3-methoxybenzoate (Combi-blocks CA-4192; 2.5 g; 10.2 mmol; 1 eq.), o-tolylboronic acid (Aldrich 393606; 1.53 g; 11.2 mmol; 1.1 eq.), potassium carbonate (7.05 g; 51 mmol; 5 eq.) and Pd(PPh3)4 (1.18 g; 1.02 mmol; 0.1 eq.) in toluene (12.5 mL) and water (12.5 mL) was refluxed for 2 hours. The reaction mixture was cooled down to room temperature and filtered through a pad of CELITE which was further washed with toluene (200 mL). The filtrate was concentrated in vacuo and the residue taken up in Ethyl acetate (500 mL). The organic layer was washed with sat. aq. NaHCO3 (150 mL), water (150 mL) and brine (150 mL) then dried over magnesium sulfate and concentrated in vacuo. The residue (2.5 g; 9.75 mmol; 1 eq.) was taken up in EtOH (75 mL), sodium hydroxide (5M; 5.85 mL; 29.3 mmol; 3 eq.) was added and the reaction mixture was stirred at 60° C. for two hours. After concentration in vacuo, the residue was taken up in water (400 mL) and the aqueous phase was washed with Ethyl acetate then acidified to pH 2 with cone. HCl. The solution was concentrated to ca. 80 mL and the precipitate filtered off and dried to afford the title compound (1.95 g, 79%) as a beige solid.

reactant | methyl 4-bromo-3-methoxybenzoate | 10.2 mmol, 2.5 g, 1 eq. | BrC1=C(C=C(C(=O)OC)C=C1)OC | C9H9BrO3
reactant | o-tolylboronic acid | 11.2 mmol, 1.53 g, 1.1 eq. | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
reactant | potassium carbonate | 51 mmol, 7.05 g, 5 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 29.3 mmol, 5M, 5.85 mL, 3 eq. | [OH-].[Na+]
solvent | toluene | 12.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 12.5 mL | O | H2O
catalyst | Pd(PPh3)4 | 1.02 mmol, 1.18 g, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-methoxy-2′-methylbiphenyl-4-carboxylic acid | 1.95 g, 79% | COC1=C(C=CC(=C1)C(=O)O)C1=C(C=CC=C1)C | C15H14O3
